US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-(tetrahydro-2H-pyran-4-ylamino)benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-(tetrahydro-2H-pyran-4-ylamino)-phenyl] cpd. 94
4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoic acid trifluoroacetate (1 mmol, 531 mg) was dissolved in DCM and two drops of anhydrous DMF under nitrogen atmosphere. Oxalyl chloride (0.17 ml, 2 mmol) was added and the mixture was stirred at room temperature for 2 hours. Solvents were evaporated to obtain a yellow powder. The solid was redissolved in THF under an argon atmosphere and cooled at −20° C. DIPEA (0.56 ml, 3.2 mmol) was added. 5-(3,5-Difluorobenzyl)-1H-indazol-3-amine, dissolved in 10 mL of dry THF was then added dropwise in 15′. The reaction mixture was kept at −20° C. for 6 hours then the temperature was allowed to raise at room temperature overnight. The reaction was quenched with 15 mL of NaHCO3 5% and extracted twice with AcOEt (15 ml). Solvents were then evaporated and the residue was redissolved in 20 ml of MeOH. TEA (10 mmol, 1.5 ml) was added and the mixture was heated to 65° C. for 3 hr. Then the reaction was cooled to room temperature and the solvents removed to yield the crude product which was purificated by means of silica gel flash chromatography (AcOEt/MeOH/NH3Aq. 85:15:05) to yield the title compound as a white powder (258 mg, 0.45 mmol, 45%).

reactant | 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoic acid trifluoroacetate | 1 mmol, 531 mg | FC(C(=O)O)(F)F.CN1[C@@H](CCC1)COC1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1
reactant | Oxalyl chloride | 2 mmol, 0.17 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIPEA | 3.2 mmol, 0.56 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(3,5-Difluorobenzyl)-1H-indazol-3-amine | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | AcOEt MeOH | CCOC(=O)C.CO
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | 0.45 mmol, 258 mg, 45% | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)OC[C@H]2N(CCC2)C)NC2CCOCC2)=O)C=C(C1)F | C32H35F2N5O3
